US08053440B2
To a solution of 4-hydroxy-3,5-dimethyl benzaldehyde (3.0 g, 20 mmol) in anhydrous THF (100 mL), triphenyl phosphene (10.49 g, 40 mmol), 4-(2-hydroxyethyl)morpholine (5.25 g, 40 mmol) and N,N-diisopropylethylamine (7.76 g, 60 mmol) were added. To this stirred solution was added diethylazodicarboxylate (6.97 g, 40 mmol). The reaction mixture was stirred at room temperature overnight under nitrogen and diluted with ethyl acetate (200 mL). The organic layer was washed with water and brine and dried over anhydrous Na2SO4. The solvent was removed under reduced pressure. The crude material was purified by column chromatography (silica gel 230-400 mesh; 0-3% methanol in CH2Cl2 as eluent) to give 3,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)benzaldehyde (1.66 g, 32%) as an oil.

reactant | 4-hydroxy-3,5-dimethyl benzaldehyde | 20 mmol, 3.0 g | OC1=C(C=C(C=O)C=C1C)C | C9H10O2
reactant | 4-(2-hydroxyethyl)morpholine | 40 mmol, 5.25 g | OCCN1CCOCC1 | C6H13NO2
reactant | N,N-diisopropylethylamine | 60 mmol, 7.76 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethylazodicarboxylate | 40 mmol, 6.97 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3,5-dimethyl-4-(2-morpholin-4-yl-ethoxy)benzaldehyde | 1.66 g, 32% | CC=1C=C(C=O)C=C(C1OCCN1CCOCC1)C | C15H21NO3
